US07354942B2
To a solution of methyl 2-chloro-6-[(methylsulfonyl)(propyl)amino]isonicotinate (3.5 g, 11.5 mmol) in THF (50 mL) cooled to 0° C. was added LiBH4 (17.2 mL, 34.4 mmol, 2 M in THF). After 10 min, the reaction mixture was allowed to warm to rt and stirred for 3.5 h. The reaction mixture was carefully quenched with EtOAc, MeOH and water. Following dilution with EtOAc, the organic layer was extracted, washed with brine, dried over sodium sulfate and concentrated in vacuo to provide N-[6-chloro-4-(hydroxymethyl)pyridin-2-yl]-N-propylmethanesulfonamide which was used as is in the bromination step.

reactant | methyl 2-chloro-6-[(methylsulfonyl)(propyl)amino]isonicotinate | 11.5 mmol, 3.5 g | ClC=1C=C(C(=O)OC)C=C(N1)N(CCC)S(=O)(=O)C | C11H15ClN2O4S
reactant | LiBH4 | 34.4 mmol, 2 M, 17.2 mL | [Li+].[BH4-]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | N-[6-chloro-4-(hydroxymethyl)pyridin-2-yl]-N-propylmethanesulfonamide | ClC1=CC(=CC(=N1)N(S(=O)(=O)C)CCC)CO | C10H15ClN2O3S
